US05264430
To a stirred solution of benzhydryl 7α-bromo-3-methyl-3-cephem-4-carboxylate-1,1-dioxide (2.8 g, 0.0059 mol) in methylene chloride (12 ml) were added dimethylamine hydrochloride (1.44 g, 0.0176 mol), formaldehyde (0.61 g, 0.020 mol) and t-butyl alcohol (100 ml), the mixture was heated to reflux at 95° C. for 3 hours. Solvent was removed under reduced pressure and the residue was dissolved in methylene chloride, washed with water, dried over sodium sulfate and concentrated to dryness. The residue was purified by column chromatography with a solvent gradient of 10 to 25% ethyl acetate/hexane to afford benzhydryl 7α-bromo-2-methylene-3-methyl-3-cephem-4-carboxylate-1, 1-dioxide (2.0 g, 69.5%) as a white foam. IR (Nujol) ν max 1720, 1800 cm-1.

reactant | benzhydryl 7α-bromo-3-methyl-3-cephem-4-carboxylate-1,1-dioxide | 0.0059 mol, 2.8 g | Br[C@@H]1[C@@H]2N(C(=C(CS2(=O)=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18BrNO5S
reactant | dimethylamine hydrochloride | 0.0176 mol, 1.44 g | Cl.CNC
reactant | formaldehyde | 0.020 mol, 0.61 g | C=O | CH2O
reactant | t-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7α-bromo-2-methylene-3-methyl-3-cephem-4-carboxylate-1, 1-dioxide | 2.0 g, 69.5% | Br[C@@H]1[C@@H]2N(C(=C(C(S2(=O)=O)=C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18BrNO5S
